US09233979B2
Step 4: Synthesis of Methyl (S)-2-(3-(3-(bis(4-methoxybenzyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)ureido)-2-phenylacetate
To a solution of 3-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diamine (0.1 g, 0.16 mmol) in anhydrous 1,4-dioxane (3 mL) was added CDI (0.13 g, 0.79 mmol) followed by the addition of imidazole (0.05 g, 0.78 mmol) and the contents were stirred at ambient temperature. After 16 h, DIPEA (0.12 mL, 0.64 mmol) and (S)-methyl-2-amino-2-phenylacetate (0.064 g, 0.32 mmol) were added and stirred. After 2 h, the reaction mixture was quenched with H2O and the organic contents were extracted with EtOAc (2×20 mL), dried over anhydrous Na2SO4 and concentrated. The residue thus obtained was purified by preparative HPLC to afford the title compound MS ES calc'd. for C51H46N6O5 [M+H]+ 823. Found 823.

reactant | 3-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diamine | 0.16 mmol, 0.1 g | COC1=CC=C(CN(C2=NN(C3=C2C=NC(=C3)N)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC3=CC=C(C=C3)OC)C=C1 | C41H37N5O2
reactant | CDI | 0.79 mmol, 0.13 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | imidazole | 0.78 mmol, 0.05 g | N1C=NC=C1 | C3H4N2
reactant | DIPEA | 0.64 mmol, 0.12 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-methyl-2-amino-2-phenylacetate | 0.32 mmol, 0.064 g | COC([C@H](C1=CC=CC=C1)N)=O | C9H11NO2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | Methyl (S)-2-(3-(3-(bis(4-methoxybenzyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)ureido)-2-phenylacetate | COC1=CC=C(CN(C2=NN(C3=C2C=NC(=C3)NC(N[C@H](C(=O)OC)C3=CC=CC=C3)=O)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC3=CC=C(C=C3)OC)C=C1 | C51H46N6O5
